US07977331B1
To a solution of methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-1-(3-chloropropyl)-3-cyclohexyl-1H-indole-6-carboxylate (167 mg, 0.344 mmol) in chloroform (1.5 ml) was added trifluoroacetic acid (1 ml), and the mixture was stirred at room temperature for 8 hr. The reaction mixture was evaporated under reduced pressure. To the residue was added saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 1-(3-chloropropyl)-3-cyclohexyl-2-(1H-pyrrol-2-yl)-1H-indole-6-carboxylate (135 mg, yield 98%).

reactant | methyl 2-(1-tert-butoxycarbonyl-1H-pyrrol-2-yl)-1-(3-chloropropyl)-3-cyclohexyl-1H-indole-6-carboxylate | 0.344 mmol, 167 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCCCl | C28H35ClN2O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 1-(3-chloropropyl)-3-cyclohexyl-2-(1H-pyrrol-2-yl)-1H-indole-6-carboxylate | 135 mg, yield 98% | ClCCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1NC=CC1 | C23H27ClN2O2
